US09388189B2
(S)-1-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)urea
(S)-1-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-methoxyphenyl)urea (50 mg, 0.10 mmol) was dissolved in dichloromethane (1.5 ml). A solution of boron tribromide (1M in dichloromethane, 285 μl, 0.29 mmol) was added dropwise and the reaction was stirred at room temperature overnight. The mixture was diluted with dichloromethane and washed with a solution of 4% sodium bicarbonate, water, brine and dried over sodium sulphate, filtered and evaporated under reduced pressure. The product was purified by reverse phase using SP1® Purification System to give 27 mg (55% yield) of the title compound. Purity 100%.

reactant | (S)-1-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-methoxyphenyl)urea | 0.10 mmol, 50 mg | NC1=NC=NC(=C1C=1C=C(C=C(C1)OC)NC(=O)N)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H27N9O3
reactant | boron tribromide | 0.29 mmol, 1M, 285 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | (S)-1-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)urea | 27 mg, 55% yield | NC1=NC=NC(=C1C=1C=C(C=C(C1)O)NC(=O)N)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C26H25N9O3
